US08957205B2
1-[[(2-Furanylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid
28.13 g (0.1 mol) of 1-[[(2-furanylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid methyl ester was added to a mixture solution of 150 ml of 2N-sodium hydroxide aqueous solution and 200 ml of tetrahydrofuran, and the mixture was refluxed under heating for 18 hours. After the solvent was distilled off, water was added to the residue and the mixture was washed with diethyl ether. After potassium hydrogensulfate was added to the aqueous layer to acidify it, the layer was extracted with ethyl acetate twice. After the organic layer was washed with saturated brine and dried with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. Diisopropyl ether was added to the residue, and the mixture was stirred for 18 hours. The obtained crystal was collected by filtration to give 19.89 g (74%) of the title compound.

reactant | 1-[[(2-furanylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid methyl ester | 0.1 mol, 28.13 g | COC(=O)C1(CCCCC1)NC(=O)OCC=1OC=CC1 | C14H19NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-[[(2-Furanylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid | 19.89 g, 74% | O1C(=CC=C1)COC(=O)NC1(CCCCC1)C(=O)O | C13H17NO5
